US07157604B2
A solution of 7-amino-9a-butyl-6-fluoro4-methyl-1,2,9,9a-tetrahydro-3H-fluoren-3-one (0.138 g, 0.481 mmol) in anhydrous N,N-dimethylformamide (4.8 mL) was cooled in an ice bath, placed under a nitrogen atmosphere, treated with N-bromosuccinimide (0.94 g, 0.53 mmol), and stirred at room temperature for 30 minutes. The reaction mixture was poured into a water solution of 10% K2CO3 and extracted with EtOAc. The organic layer was washed with water and evaporated under vacuum. The crude product was purified by preparative layer chromatography on a 0.05×20×20 cm silica gel GF plate, developing with 20% EtOAc in hexanes, to afford 7-amino-8-bromo-9a-butyl-6-fluoro-4-methyl-1,2,9,9a-tetrahydro-3H-fluoren-3-one (0.089 g, 50%) as a yellow solid.

reactant | 7-amino-9a-butyl-6-fluoro4-methyl-1,2,9,9a-tetrahydro-3H-fluoren-3-one | 0.481 mmol, 0.138 g | NC1=C(C=C2C3=C(C(CCC3(CC2=C1)CCCC)=O)C)F | C18H22FNO
reactant | N-bromosuccinimide | 0.53 mmol, 0.94 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | water | O | H2O
reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
solvent | N,N-dimethylformamide | 4.8 mL | CN(C=O)C | C3H7NO
product | 7-amino-8-bromo-9a-butyl-6-fluoro-4-methyl-1,2,9,9a-tetrahydro-3H-fluoren-3-one | 0.089 g, 50% | NC1=C(C=C2C3=C(C(CCC3(CC2=C1Br)CCCC)=O)C)F | C18H21BrFNO
